US06440956B1
(b) 4-[4-Nitrobenzamido]benzoic acid
10 g of 4-nitrobenzoic acid chloride are slowly introduced into 7.4 g of 4-aminobenzoic acid and 36 ml of dimethylacetamide while maintaining the temperature at less than 25° C. After stirring for 24 hours, 50 ml of methylene chloride are added at 10° C. in order to precipitate the desired product. After washing with water and drying, 14.5 g of product are isolated.

reactant | 4-nitrobenzoic acid chloride | 10 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | 4-aminobenzoic acid | 7.4 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | dimethylacetamide | 36 ml | CC(=O)N(C)C | C4H9NO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-[4-Nitrobenzamido]benzoic acid | 14.5 g | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=C1 | C14H10N2O5
